US05134111
(a) Preparation of 5-ethyl-4-hydroxy-1-naphthalenecarbaldehyde
24.0 g of 8-ethyl-1-naphthol was dissolved in 200 ml of dichloromethane, in which 30.6 ml of titanium tetrachloride was gradually dropped under ice-cooling conditions. Thereafter, 20.3 ml of dichloromethyl methyl ether was gradually dropped under ice-cooling condition. After agitation for 10 minutes, 50 ml of water was gradually dropped under ice-cooling conditions. The reaction solution was extracted with ethyl acetate and the organic phase was washed with water. After drying with anhydrous magnesium sulfate, the solvent was distilled off and the resultant crystals were washed with a mixed solvent of chloroform and isopropyl ether (1:1) to obtain 15.9 g of the captioned compound as yellowish brown crystals.

reactant | 8-ethyl-1-naphthol | 24.0 g | C(C)C=1C=CC=C2C=CC=C(C12)O | C12H12O
reactant | dichloromethyl methyl ether | 20.3 ml | COC(Cl)Cl | C2H4Cl2O
reactant | water | 50 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | titanium tetrachloride | 30.6 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 5-ethyl-4-hydroxy-1-naphthalenecarbaldehyde | 15.9 g | C(C)C1=C2C(=CC=C(C2=CC=C1)C=O)O | C13H12O2
